### PR TITLE
[Merged by Bors] - chore: to_additive various results on groups, group actions

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/Pointwise.lean [hunk 1]
```diff
@@ -121,21 +129,25 @@ variable (R)
 variable [FunLike F M₁ M₂] [MulActionHomClass F R M₁ M₂]
     (c : R) (s : Set M₁) (t : Set M₂)
 
-@[simp] -- This can be safely removed as a `@[simp]` lemma if `image_smul_setₛₗ` is readded.
+-- This can be safely removed as a `@[simp]` lemma if `image_smul_setₛₗ` is readded.
+@[to_additive, simp]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Pointwise.lean:133]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 2]
```diff
@@ -161,41 +161,57 @@ structure SubMulAction (R : Type u) (M : Type v) [SMul R M] : Type v where
...
 
+@[to_additive]
 instance : SetLike (SubMulAction R M) M :=
   ⟨SubMulAction.carrier, fun p q h => by cases p; cases q; congr⟩
 
+@[to_additive]
 instance : SMulMemClass (SubMulAction R M) R M where smul_mem := smul_mem' _
 
-@[simp]
+@[to_additive, simp]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:184]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 3]
```diff
@@ -209,14 +225,16 @@ variable [SMul R M]
...
 theorem smul_mem (r : R) (h : x ∈ p) : r • x ∈ p :=
   p.smul_mem' r h
 
+@[to_additive]
 instance : SMul R p where smul c x := ⟨c • x.1, smul_mem _ c x.2⟩
 
 variable {p}
 
-@[simp, norm_cast]
+@[to_additive (attr := norm_cast), simp]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:237]: Same here

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 4]
```diff
@@ -161,41 +161,57 @@ structure SubMulAction (R : Type u) (M : Type v) [SMul R M] : Type v where
...
 /-- Copy of a sub_mul_action with a new `carrier` equal to the old one. Useful to fix definitional
 equalities. -/
+@[to_additive "Copy of a sub_mul_action with a new `carrier` equal to the old one.
+  Useful to fix definitional equalities."]
 protected def copy (p : SubMulAction R M) (s : Set M) (hs : s = ↑p) : SubMulAction R M where
   carrier := s
   smul_mem' := hs.symm ▸ p.smul_mem'
 
-@[simp]
+@[to_additive, simp]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:200]: Same here

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 5]
```diff
@@ -225,14 +243,16 @@ theorem val_smul (r : R) (x : p) : (↑(r • x) : M) = r • (x : M) :=
 variable (p)
 
 /-- Embedding of a submodule `p` to the ambient space `M`. -/
+@[to_additive "Embedding of a submodule `p` to the ambient space `M`."]
 protected def subtype : p →[R] M where
   toFun := Subtype.val
   map_smul' := by simp [val_smul]
 
-@[simp]
+@[to_additive, simp]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:251]: Same

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 6]
```diff
@@ -245,14 +265,16 @@ variable [hA : SMulMemClass A R M] (S' : A)
...
 instance (priority := 75) toMulAction : MulAction R S' :=
   Subtype.coe_injective.mulAction Subtype.val (SetLike.val_smul S')
 
 /-- The natural `MulActionHom` over `R` from a `SubMulAction` of `M` to `M`. -/
+@[to_additive "The natural `AddActionHom` over `R` from a `SubAddAction` of `M` to `M`."]
 protected def subtype : S' →[R] M where
   toFun := Subtype.val; map_smul' _ _ := rfl
 
-@[simp]
+@[to_additive, simp]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:277]: Same

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 7]
```diff
@@ -62,6 +69,14 @@ section FixedPoints
 
 variable {M α}
 
+@[to_additive] theorem mem_fixedPoints_iff_subsingleton_orbit {a : α} :
+    a ∈ fixedPoints M α ↔ (orbit M a).Subsingleton := by
+  rw [mem_fixedPoints]
+  constructor
+  · rintro h _ ⟨m, rfl⟩ y ⟨p, rfl⟩
+    simp only [h]
+  · exact fun h m ↦ h (mem_orbit a m) (mem_orbit_self a)
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:78]: This is a new lemma, right? Can it move to a more appropriate PR?

**Review by YaelDillies — COMMENTED** [review]
Thanks for splitting!

Sorry, I got bored halfway through, but there are more to fix. There are also several missing docstrings on the additivised versions

File: Mathlib/GroupTheory/GroupAction/Basic.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Basic.lean:78]: removed

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 8]
```diff
@@ -15,10 +15,12 @@ import Mathlib.Tactic.IntervalCases
 Given `SMul G X`, an action of a type `G` on a type `X`, we define
 
 - the predicate `IsBlock G B` states that `B : Set X` is a block,
-  which means that the sets `g • B`, for `g ∈ G`, are equal or disjoint.
+which means that the sets `g • B`, for `g ∈ G`, are equal or disjoint.
+Under `Group G` and `MulAction G X`, this is equivalent to the classical
+definition `MulAction.IsBlock.def_one`
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:20]: As indicated by the highlighting within vscode, you are supposed to indent after a bullet point
```suggestion
  which means that the sets `g • B`, for `g ∈ G`, are equal or disjoint.
  Under `Group G` and `MulAction G X`, this is equivalent to the classical
  definition `MulAction.IsBlock.def_one`
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 9]
```diff
@@ -15,10 +15,12 @@ import Mathlib.Tactic.IntervalCases
...
 
 - a bunch of lemmas that give examples of “trivial” blocks : ⊥, ⊤, singletons,
-  and non trivial blocks: orbit of the group, orbit of a normal subgroup…
+and non trivial blocks: orbit of the group, orbit of a normal subgroup…
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:23]:
```suggestion
  and non trivial blocks: orbit of the group, orbit of a normal subgroup…
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 10]
```diff
@@ -292,18 +299,20 @@ theorem IsBlock.image {H Y : Type*} [Group H] [MulAction H Y]
...
+@[to_additive]
 theorem isBlock_subtypeVal {C : SubMulAction G X} {B : Set C} :
     IsBlock G (Subtype.val '' B : Set X) ↔ IsBlock G B := by
   refine forall₂_congr fun g₁ g₂ ↦ ?_
   rw [← SubMulAction.inclusion.coe_eq, ← image_smul_set, ← image_smul_set, ne_eq,
     Set.image_eq_image C.inclusion_injective, disjoint_image_iff C.inclusion_injective]
 
 theorem IsBlock.of_subgroup_of_conjugate {H : Subgroup G} (hB : IsBlock H B) (g : G) :
-    IsBlock (Subgroup.map (MulEquiv.toMonoidHom (MulAut.conj g)) H) (g • B) := by
+    IsBlock (H.map (MulEquiv.toMonoidHom (MulAut.conj g))) (g • B) := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:315]:
```suggestion
    IsBlock (H.map (MulAut.conj g).toMonoidHom) (g • B) := by
```
if you want even

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 11]
```diff
@@ -317,6 +326,25 @@ theorem IsBlock.of_subgroup_of_conjugate {H : Subgroup G} (hB : IsBlock H B) (g
     rw [← this]; rfl
   rw [← hh, smul_smul (g * h * g⁻¹) g B, smul_smul g h B, inv_mul_cancel_right]
 
+theorem _root_.AddAction.IsBlock.of_addsubgroup_of_conjugate
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:329]: Can you prove that lemma *before* `IsBlock.of_subgroup_of_conjugate`, then tag `IsBlock.of_subgroup_of_conjugate` with `to_additive`. This is what you should do in such cases where automatic additivisation fails

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 12]
```diff
@@ -326,12 +354,26 @@ theorem IsBlock.translate (g : G) (hB : IsBlock G B) :
   apply IsBlock.of_subgroup_of_conjugate
   rwa [Subgroup.comap_top]
 
+/-- A translate of a block is a block -/
+theorem _root_.AddAction.IsBlock.translate
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:358]: Same here with `IsBlock.translate`

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 13]
```diff
@@ -326,12 +354,26 @@ theorem IsBlock.translate (g : G) (hB : IsBlock G B) :
...
+
 variable (G) in
 /-- For `SMul G X`, a block system of `X` is a partition of `X` into blocks
   for the action of `G` -/
+@[to_additive "For `VAdd G X`, a block system of `X` is a partition of `X` into blocks
+ for the additive action of `G`"]
 def IsBlockSystem (ℬ : Set (Set X)) := Setoid.IsPartition ℬ ∧ ∀ ⦃B⦄, B ∈ ℬ → IsBlock G B
 
 /-- Translates of a block form a block system. -/
+@[to_additive]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:376]: Missing doc

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 14]
```diff
@@ -368,6 +411,7 @@ lemma smul_orbit_eq_orbit_smul (N : Subgroup G) [nN : N.Normal] (a : X) (g : G)
     simp only [← mul_assoc, ← smul_smul, smul_inv_smul, inv_inv]
 
 /-- An orbit of a normal subgroup is a block -/
+@[to_additive]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:414]: Missing doc

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 15]
```diff
@@ -376,6 +420,7 @@ theorem IsBlock.orbit_of_normal {N : Subgroup G} [N.Normal] (a : X) :
   apply orbit.eq_or_disjoint
 
 /-- The orbits of a normal subgroup form a block system -/
+@[to_additive]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:423]: Missing doc

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 16]
```diff
@@ -436,6 +481,7 @@ section Stabilizer
   (Wielandt, th. 7.5) -/
 
 /-- The orbit of `a` under a subgroup containing the stabilizer of `a` is a block -/
+@[to_additive]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:484]: Missing doc

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 17]
```diff
@@ -447,11 +493,13 @@ theorem IsBlock.of_orbit {H : Subgroup G} {a : X} (hH : stabilizer G a ≤ H) :
   simpa only [mem_stabilizer_iff, InvMemClass.coe_inv, mul_smul, inv_smul_eq_iff]
 
 /-- If `B` is a block containing `a`, then the stabilizer of `B` contains the stabilizer of `a` -/
+@[to_additive]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:496]: Missing doc

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 18]
```diff
@@ -447,11 +493,13 @@ theorem IsBlock.of_orbit {H : Subgroup G} {a : X} (hH : stabilizer G a ≤ H) :
...
 theorem IsBlock.stabilizer_le (hB : IsBlock G B) {a : X} (ha : a ∈ B) :
     stabilizer G a ≤ stabilizer G B :=
   fun g hg ↦ hB.smul_eq_of_nonempty ⟨a, by rwa [← hg, smul_mem_smul_set_iff], ha⟩
 
 /-- A block containing `a` is the orbit of `a` under its stabilizer -/
+@[to_additive]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:502]: Missing doc. etc...

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 19]
```diff
@@ -292,18 +299,40 @@ theorem IsBlock.image {H Y : Type*} [Group H] [MulAction H Y]
...
   hB.preimage C.inclusion
 
+@[to_additive]
 theorem isBlock_subtypeVal {C : SubMulAction G X} {B : Set C} :
     IsBlock G (Subtype.val '' B : Set X) ↔ IsBlock G B := by
   refine forall₂_congr fun g₁ g₂ ↦ ?_
   rw [← SubMulAction.inclusion.coe_eq, ← image_smul_set, ← image_smul_set, ne_eq,
     Set.image_eq_image C.inclusion_injective, disjoint_image_iff C.inclusion_injective]
 
+theorem _root_.AddAction.IsBlock.of_addsubgroup_of_conjugate
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:314]:
```suggestion
theorem _root_.AddAction.IsBlock.of_addSubgroup_of_conjugate
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 20]
```diff
@@ -161,41 +161,57 @@ structure SubMulAction (R : Type u) (M : Type v) [SMul R M] : Type v where
...
   smul_mem' : ∀ (c : R) {x : M}, x ∈ carrier → c • x ∈ carrier
 
+/-- A SubAddAction is a set which is closed under scalar multiplication. -/
+structure SubAddAction (R : Type u) (M : Type v) [VAdd R M] : Type v where
+  /-- The underlying set of a `SubAddAction`. -/
+  carrier : Set M
+  /-- The carrier set is closed under scalar multiplication. -/
+  vadd_mem' : ∀ (c : R) {x : M}, x ∈ carrier → c +ᵥ x ∈ carrier
+
+attribute [to_additive] SubMulAction
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:171]: Can you swap `SubAddAction` and `SubMulAction` around and tag `SubMulAction` with `to_additive` straight away?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by fpvandoorn** [comment]
bors d+

**Comment by AntoineChambert-Loir** [comment]
bors r+

Le 6 janvier 2025 20:55:52 GMT+01:00, "mathlib-bors[bot]" ***@***.***> a écrit :

**Comment by YaelDillies** [comment]
@AntoineChambert-Loir, you didn't address my final comments (probably because you didn't see them via the email system)

**Comment by AntoineChambert-Loir** [comment]
i' sorry, can you please send it back to me so that i can address it immediately


Le 7 janvier 2025 08:59:22 GMT+01:00, "Yaël Dillies" ***@***.***> a écrit :
